US05880147
N-(2-t-Butyl-5-methoxycarbonylphenyl)-3-(4-hydroxymethyl-2-methoxyphenyl)octanamide
One drop of dimethylformamide and then 3.0 ml (34.5 mmol) of oxalyl chloride were added to a solution of 6.06 g (18.8 mmol) of 3-(4-acetoxymethyl-2-methoxyphenyl)octanoic acid (prepared as described in Preparation 41) in 40 ml of methylene chloride, and the resulting mixture was stirred at room temperature for 50 minutes. At the end of this time, the reaction mixture was freed from excess reagents and the solvent by distillation under reduced pressure. The resulting residue was dissolved in 20 ml of methylene chloride, and this solution was added to a solution of 4.12 g (19.9 mmol) of 2-t-butyl-5-methoxycarbonylaniline (prepared as described in Preparation 5) and 5 ml of pyridine in 20 ml of methylene chloride, whilst ice-cooling. The resulting mixture was then stirred at the same temperature for 20 minutes. At the end of this time, the reaction mixture was mixed with water, and the aqueous mixture was extracted with ethyl acetate. The extract was washed with 2N aqueous hydrochloric acid, with water, with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was dissolved in 200 ml of absolute methanol. 2.0 ml (2.0 mmol) of a 1.0M methanolic sodium methoxide solution were then added to the resulting solution. The resulting mixture was then stirred at room temperature for 2.5 hours. In order to terminate the reaction, a saturated aqueous solution of ammonium chloride was added to the reaction mixture, after which it was freed from methanol by distillation under reduced pressure. It was then extracted with ethyl acetate. The extract was washed with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 250 g of silica gel using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 7.80 g (yield 88%, based on the compound of Preparation 41)of the title compound as a foam-like substance.

reactant | oxalyl chloride | 34.5 mmol, 3.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(4-acetoxymethyl-2-methoxyphenyl)octanoic acid | 18.8 mmol, 6.06 g | C(C)(=O)OCC1=CC(=C(C=C1)C(CC(=O)O)CCCCC)OC | C18H26O5
reactant | 2-t-butyl-5-methoxycarbonylaniline | 19.9 mmol, 4.12 g | C(C)(C)(C)C1=C(N)C=C(C=C1)C(=O)OC | C12H17NO2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | dimethylformamide | One drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-t-Butyl-5-methoxycarbonylphenyl)-3-(4-hydroxymethyl-2-methoxyphenyl)octanamide | yield 88% | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)OC)NC(CC(CCCCC)C1=C(C=C(C=C1)CO)OC)=O | C28H39NO5
